US08049015B2
3-[(N-Benzyloxycarbonyl-N-ethyl-amino)-methyl]-4-bromo-benzoic acid benzyl ester (5.5 g, 11.4 mmol), bis(pinacolato)diboron (4.35 g, 17.1 mmol), and potassium acetate (4.1 g, 45.6 mmol) were combined in 1,4-dioxane (200 mL), and the solution was purged with N2 for 10 minutes. (1,1′-Bis(diphenylphosphino)ferrocene)-dichloropalladium(II) (0.466 g, 0.57 mmol) was added, and the reaction was stirred at 80° C. for 4 hours. Additional bis(diphenylphosphino)ferrocene)-dichloropalladium(II) (0.466 g, 0.57 mmol) was added, and the reaction was stirred at 80° C. overnight. The mixture was filtered over silica gel with 1:1 EtOAc:hexanes, and the filtrate was extracted with EtOAc three times and washed with brine. The organic layer was concentrated and purified by silica gel chromatography (0-30% EtOAc in hexanes) to give 3-[(N-benzyloxycarbonyl-N-ethyl-amino)-methyl]-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid benzyl ester.

reactant | 3-[(N-Benzyloxycarbonyl-N-ethyl-amino)-methyl]-4-bromo-benzoic acid benzyl ester | 11.4 mmol, 5.5 g | C(C1=CC=CC=C1)OC(C1=CC(=C(C=C1)Br)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C25H24BrNO4
reactant | bis(pinacolato)diboron | 17.1 mmol, 4.35 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 45.6 mmol, 4.1 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 200 mL | O1CCOCC1 | C4H8O2
catalyst | (1,1′-Bis(diphenylphosphino)ferrocene)-dichloropalladium(II) | 0.57 mmol, 0.466 g | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium(II) | 0.57 mmol, 0.466 g | Cl[Pd]Cl
product | 3-[(N-benzyloxycarbonyl-N-ethyl-amino)-methyl]-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C31H36BNO6
